US04420424
(C) H-Glu-Ile-Val-OBut
37 g of Z-Glu(OBzl)OH are reacted with 32 g of H-Ile-Val-OBut.HCl and the product is worked up, as described in Example 21 (C). After catalytic hydrogenation the compound is a single substance according to chromatography.

reactant | Z-Glu(OBzl)OH | 37 g | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H21NO6
reactant | H-Ile-Val-OBut.HCl | 32 g | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C.Cl
product | H-Glu-Ile-Val-OBut | N[C@@H](CCC(O)=O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C | C20H37N3O6
